US04047948
Preparation of bis(4-diethylamino-2-methylphenyl)-phenylmethane
Into a 100 milliliter round bottom flask fitted with a mechanical stirrer and a dropping funnel is placed 8.85 grams (0.05 moles) of N,N-diethyl-m-toluidine and 3.0 grams (0.03 moles) of benzaldehyde and 10 milliliters of n-butanol containing 0.75 grams of concentrated sulfuric acid. The flask is flushed with nitrogen to remove air and refluxed for 18 hours with a nitrogen atmosphere. The material is then cooled to room temperature. A sufficient amount of sodium bicarbonate is added in order to neutralize the acid. 10 milliliters of methanol is added whereby a yellowish white precipitation is formed. The yellowish white material is filtered out. The material may then be washed with cold methanol in order to remove the yellow color. The material may be recrystallized from either methanol or ethanol. In order to further purify the material, it may be put through a neutral alumina column. The material is eluted with benzene. The first material to be fractionated off of the column is a clear liquid. This liquid is placed in a rotary evaporator and the solvent is removed. The residue is either a clear liquid or a white solid. The material may be recrystallized using methanol or ethanol. White crystals are obtained. A 70 percent yield based upon the benzaldehyde is obtained. The product is vacuum dried in order to remove the remaining solvent.

reactant | N,N-diethyl-m-toluidine | 0.05 moles, 8.85 grams | C(C)N(C1=CC(=CC=C1)C)CC | C11H17N
reactant | benzaldehyde | 0.03 moles, 3.0 grams | C(C1=CC=CC=C1)=O | C7H6O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | n-butanol | 10 milliliters, 0.75 grams | C(CCC)O | C4H10O
product | bis(4-diethylamino-2-methylphenyl)-phenylmethane | 70 percent yield | C(C)N(C1=CC(=C(C=C1)C(C1=CC=CC=C1)C1=C(C=C(C=C1)N(CC)CC)C)C)CC | C29H38N2
